US04192800
A stirred mixture of 4-(2',4'-dibromo-6'-methylphenylazo)-N,N-diethylaniline (4.25 parts), copper (I) iodide (2.0 parts), formaldoxime trimer (1.75 parts), 2,6-lutidine (2.15 parts), and nitrobenzene (150 parts) was heated to 95° C. for 6 hours when thin layer chromatography showed reaction to be complete. The mixture was cooled, filtered and the nitrobenzene was removed by steam distillation. Crystallisation of the solid product from ethanol gave 4-(2'-cyano-4'-bromo-6'-methylphenylazo)-N,N-diethylaniline (Found: C, 58.2; H, 5.4; Br, 21.7; N, 15.2. C18H19BrN4 requires C, 58.2; H, 5.15; Br, 21.55; N, 15.1%).

reactant | 4-(2',4'-dibromo-6'-methylphenylazo)-N,N-diethylaniline | BrC1=C(C(=CC(=C1)Br)C)N=NC1=CC=C(N(CC)CC)C=C1 | C17H19Br2N3
reactant | formaldoxime | C=NO | CH3NO
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper (I) iodide | [Cu]I
product | 4-(2'-cyano-4'-bromo-6'-methylphenylazo)-N,N-diethylaniline | 15.1% | C(#N)C1=C(C(=CC(=C1)Br)C)N=NC1=CC=C(N(CC)CC)C=C1 | C18H19BrN4
